US09388197B2
A.1.10.1. 4-((2,2-Dimethyl-1,3-dioxolan-4-yl)methoxy)thiazole
NaH (60% dispersion in mineral oil, 12.19 g, 305.3 mmol) was added portionwise to DL-1,2-isoproylideneglycerol (16.11 g, 1218 mmol) and the mixture was stirred until gas evolution had ceased (ca. 30 min RT, followed by 2 h at 60° C.). Subsequently, 4-bromothiazole (20.00 g, 121.9 mmol) was added and the mixture was stirred at 140° C. for 45 min. Subsequently, the reaction mixture was quenched with aq. sat. NH4Cl and extracted with EtOAc. The comb. org. layers were washed with brine, dried over MgSO4, and conc. in vacuo. The residue was subjected to distillation and the volatiles (HV, 60° C.) were removed. The residue was purified by means of CC (5-40% EtOAc/Hept) to provide a yellow oil.

reactant | NaH | 305.3 mmol, 12.19 g | [H-].[Na+]
reactant | DL-1,2-isoproylideneglycerol | 1218 mmol, 16.11 g | CC1(OCC(O1)CO)C | C6H12O3
reactant | 4-bromothiazole | 121.9 mmol, 20.00 g | BrC=1N=CSC1 | C3H2BrNS
product | 4-((2,2-Dimethyl-1,3-dioxolan-4-yl)methoxy)thiazole | CC1(OCC(O1)COC=1N=CSC1)C | C9H13NO3S
